US04020112
Reaction of Pentachlorophenol with SF4 in HF
In run A two principal product fractions are obtained: (1) 60.3 g, bp 91°-97° /31 mm, mp 30°; (2) 18.6 g, semisolid residue. Fraction (1) was identified as 1,1,4,4-tetrafluorotetrachloro-2,5-cyclohexadiene by comparison of its IR and MS data with those of a known sample of the compound (Hasek et al., Jour. Am. Chem. Soc., vol. 82, p. 543, 1960) Fraction (2) was indicated by fluorine NMR, IR, VPC and EA analyses to be a mixture of isomeric 1,1,4-trifluoropentachloro-2,5-cyclohexadiene and 1,5,6-trifluoropentachloro-1,3-cyclohexadiene.

reactant | 1,1,4,4-tetrafluorotetrachloro-2,5-cyclohexadiene | FC1(C(=C(C(C(=C1Cl)Cl)(F)F)Cl)Cl)F | C6Cl4F4
reactant | fluorine | FF | F2
reactant | 1,1,4-trifluoropentachloro-2,5-cyclohexadiene | FC1(C(=C(C(C(=C1Cl)Cl)(F)Cl)Cl)Cl)F | C6Cl5F3
reactant | 1,5,6-trifluoropentachloro-1,3-cyclohexadiene | FC1=C(C(=C(C(C1(F)Cl)(F)Cl)Cl)Cl)Cl | C6Cl5F3
reactant | EA | CC(OCC)=O | C4H8O2
product | Pentachlorophenol | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
